US09302998B2
STEP A: 1,5-bis-benzyloxy-2-isopropyl-4-nitro-benzene
HNO3 (1.11 ml, 13.7 mmol) was added to a suspension of 2,4-bis-benzyloxy-1-isopropyl-benzene (3.8 g, 11.44 mmol) in AcOH (46 ml) and the reaction was heated to 70-80° C. for 40 minutes. The solution was cooled down to 0° C. and neutralized with aq. NaHCO3. The organic phase was extracted with AcOEt and the solvent was removed under reduced pressure. The crude reaction mixture was purified by flash chromatography (PE/AcOEt:95/5 to 90/10) and the title compound was obtained as a yellow solid.

reactant | HNO3 | 13.7 mmol, 1.11 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,4-bis-benzyloxy-1-isopropyl-benzene | 11.44 mmol, 3.8 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(C)C | C23H24O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | AcOH | 46 ml | CC(=O)O | C2H4O2
product | 1,5-bis-benzyloxy-2-isopropyl-4-nitro-benzene | Yield: 35% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)[N+](=O)[O-])C(C)C | C23H23NO4
